US04267180
A suspension of 14.34 g (75 mmol) of N-acetyl-DL-methionine and 150 ml of dichloromethane is stirred at -15° C. and 10.5 ml (75 mmol) of triethylamine is added followed by 9.75 ml (75 mmol) of isobutyl chloroformate. After stirring for 20 minutes at -15° C., a solution of 11.6 g (50 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid in 200 ml of dimethylacetamide containing 7.7 ml (55 mmol) of triethylamine is added at -15° C. The mixture is stirred at 0° C. for 3 hrs and overnight at room temperature. The mixture is evaporated and the residue triturated with water. The aqueous suspension, after adjusting the pH to 2.5 with dilute HCl is filtered, washed with water, and dried to give 11.54 g of 2-[4-(N-acetyl-DL-methionylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid; mp 259° C. dec.

reactant | N-acetyl-DL-methionine | 75 mmol, 14.34 g | C(C)(=O)NC(CCSC)C(=O)O | C7H13NO3S
reactant | isobutyl chloroformate | 75 mmol, 9.75 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 50 mmol, 11.6 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | dimethylacetamide | 55 mmol, 200 ml | CC(=O)N(C)C | C4H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | triethylamine | 75 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
product | 2-[4-(N-acetyl-DL-methionylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 11.54 g | C(C)(=O)NC(CCSC)C(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C18H20N4O5S
